US08835476B2
Synthesis of 5-(4-fluorophenyl)-3-(1H-tetrazol-5-yl)thiophene-2-carboxylic acid analogues
5-(4-Fluoro-phenyl)-3-(1-methyl-1H-tetrazol-5-yl)-thiophene-2-carboxylic acid (DNM-143) A solution of 5-(4-fluoro-phenyl)-3-(1-methyl-1H-tetrazol-5-yl)-thiophene-2-carboxylic acid methyl ester (28 mg, 0.088 mmol) and lithium hydroxide (10.5 mg, 0.44 mmol) in 3 mL of methanol, 4.5 mL of THF and 2 mL of H2O was stirred overnight at room temperature. The solvent was removed, and the residue was redissolved in 5 mL of H2O. After being acidified with 1N HCl, the precipitate formed was collected by suction filtration, washed with H2O, and dried under vacuum overnight. 24 mg (90%) of product was obtained as a white solid, mp: 270.0-272.0° C. (decomposed); 1H NMR (DMSO, 500 MHz) δ 7.89 (m, 2H), 7.77 (s, 1H), 7.36 (m, 2H); 13C NMR (DMSO, 125 MHz) δ 163.76, 161.79, 161.46, 150.48, 147.83, 132.96, 128.94, 128.49, 128.45, 128.39, 127.03, 116.56, 116.39, 34.12.

reactant | 5-(4-Fluoro-phenyl)-3-(1-methyl-1H-tetrazol-5-yl)-thiophene-2-carboxylic acid | FC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)O)C1=NN=NN1C | C13H9FN4O2S
reactant | 5-(4-fluoro-phenyl)-3-(1-methyl-1H-tetrazol-5-yl)-thiophene-2-carboxylic acid methyl ester | 0.088 mmol, 28 mg | COC(=O)C=1SC(=CC1C1=NN=NN1C)C1=CC=C(C=C1)F | C14H11FN4O2S
reactant | lithium hydroxide | 0.44 mmol, 10.5 mg | [OH-].[Li+]
solvent | methanol | 3 mL | CO | CH4O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | 5-(4-fluorophenyl)-3-(1H-tetrazol-5-yl)thiophene-2-carboxylic acid | 24 mg, 90% | FC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)O)C1=NN=NN1 | C12H7FN4O2S
